US07834021B2
Methyl [5-(8-Hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)-1,3-thiazol-2-yl]carbamate.
A solution of n-butyllithium (10.0 mL of 1.6 M solution in hexane, 15.93 mmol) was added to methyl 1,3-thiazol-2-ylcarbamate (1.05 g, 6.64 mmol) in THF (10 mL) at −78° C. with stirring under N2. After being stirred at −78° C. for 1 h, a solution of 1,4-cyclohexanedione mono-ethylene ketal (1.84 g, 11.75 mmol) in THF (10 mL) was added to the lithiated compound solution via syringe at −78° C. The reaction mixture was allowed to warm to room temperature slowly and stirred overnight. water and EtOAc were added. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were washed with saturated NaCl, dried (MgSO4), concentrated and flash chromatographed (50% EtOAc/hexane to 75% EtOAc/hexane) to give 0.744 g of the title compound in 51% yield. MS (EI) calcd: (M+H)+=315.1; found: 315.0.

reactant | n-butyllithium | 15.93 mmol, 1.6 M, 10.0 mL | C(CCC)[Li]
reactant | methyl 1,3-thiazol-2-ylcarbamate | 6.64 mmol, 1.05 g | S1C(=NC=C1)NC(OC)=O | C5H6N2O2S
reactant | 1,4-cyclohexanedione mono-ethylene ketal | 11.75 mmol, 1.84 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl [5-(8-Hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)-1,3-thiazol-2-yl]carbamate | 0.744 g, 51% yield | OC1(CCC2(OCCO2)CC1)C1=CN=C(S1)NC(OC)=O | C13H18N2O5S
